* source LAB1_PROJECT
R_R1         N00203 N00210  4 TC=0,0 
V_V2         N00221 N00214 4Vdc
V_V4         N00203 0 12Vdc
R_R2         0 N00221  6 TC=0,0 
E_E1         N00210 N00214 0 N00221 2
